datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27])[H:12])([H:9])([H:10])[H:11],51.003
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:9])([H:7])[H:8],22.6354
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])[H:9])[H:8],46.9026
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26]([C:25]([H:28])([H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31],32.2168
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:23][H:24],-5.485224
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][O:17][O:16][C:15]([H:18])([H:19])[H:20],58.19944
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:7])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],83.68
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:10])([H:8])[H:9],141.126
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][O:7][H:8],-4.987328
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:6],80.0399
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:9])=[C:8]([H:10])[H:11],-11.2968
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:12],33.723
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26])([H:10])([H:11])[H:12],59.1199
[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:7])[H:8])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6],156.9
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])([H:5])[H:6],50.7519
